### PR TITLE
[Merged by Bors] - feat: exterior angle theorem

### PR DESCRIPTION
**Pull request by wangying11123**
Add Exterior angle theorem
---
The Exterior Angle Theorem states that the exterior angle of a triangle equals the sum of the two non-adjacent interior angles.

I plan to place this in Mathlib.Geometry.Euclidean.Triangle

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 1]
```diff
@@ -403,4 +403,19 @@ theorem dist_mul_of_eq_angle_of_dist_mul (a b c a' b' c' : P) (r : ℝ) (h : ∠
...
+    rw[Sbtw.angle₁₂₃_eq_pi]
+    assumption
+  have h1 : ∠ p₃ p₁ p + ∠ p₃ p₁ p₂ = π := by
+    rw [← EuclideanGeometry.angle_add_angle_eq_pi_of_angle_eq_pi p₃ h_pi]
+  have h₁₂ : p₁ ≠ p₂ := by
+    exact Ne.symm (Sbtw.right_ne h_Sbtw)
+  have h2 := angle_add_angle_add_angle_eq_pi p₃ h₁₂
+  rw[show ∠ p₃ p₁ p₂ = ∠ p₂ p₁ p₃ by rw[angle_comm], add_comm, ← h2, add_assoc] at h1
+  simp at h1
+  rw [h1]
```
Comment (FrankieNC) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: Thanks for the PR! I think we can shorten this proof. Here is a suggestion: 
```suggestion
theorem exterior_angle_eq_angle_add_angle {p₁ p₂ p₃ : P} (p : P) (h : Sbtw ℝ p p₁ p₂) :
    ∠ p₃ p₁ p = ∠ p₁ p₃ p₂ + ∠ p₃ p₂ p₁ := by
  have H := (EuclideanGeometry.angle_add_angle_eq_pi_of_angle_eq_pi p₃ (Sbtw.angle₁₂₃_eq_pi h)).symm
  rw [show ∠ p₃ p₁ p₂ = ∠ p₂ p₁ p₃ by simp only [angle_comm],
      add_comm,
      ← angle_add_angle_add_angle_eq_pi p₃ ((Sbtw.right_ne h).symm),
      add_assoc] at H
  simp only [add_right_inj] at H
  rw [H]
```

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 2]
```diff
@@ -403,4 +403,19 @@ theorem dist_mul_of_eq_angle_of_dist_mul (a b c a' b' c' : P) (r : ℝ) (h : ∠
     have h2 : 0 ≤ r := nonneg_of_mul_nonneg_left h1 (dist_pos.mpr hab₁)
     exact (sq_eq_sq₀ dist_nonneg (mul_nonneg h2 dist_nonneg)).mp h'
 
+/-- **Exterior angle theorem**. -/
```
Comment (FrankieNC) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: I think it's worth adding the statement of the theorem below this.

Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Triangle.lean]: Ohh,yes. I fotgot it .Thanks very much

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 3]
```diff
@@ -404,18 +404,14 @@ theorem dist_mul_of_eq_angle_of_dist_mul (a b c a' b' c' : P) (r : ℝ) (h : ∠
...
-    rw[Sbtw.angle₁₂₃_eq_pi]
-    assumption
-  have h1 : ∠ p₃ p₁ p + ∠ p₃ p₁ p₂ = π := by
-    rw [← EuclideanGeometry.angle_add_angle_eq_pi_of_angle_eq_pi p₃ h_pi]
-  have h₁₂ : p₁ ≠ p₂ := by
-    exact Ne.symm (Sbtw.right_ne h_Sbtw)
-  have h2 := angle_add_angle_add_angle_eq_pi p₃ h₁₂
-  rw[show ∠ p₃ p₁ p₂ = ∠ p₂ p₁ p₃ by rw[angle_comm], add_comm, ← h2, add_assoc] at h1
-  simp at h1
-  rw [h1]
```
Comment (wangying11123) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: `
/-- **Exterior angle theorem**. -/
`

**Comment by wangying11123** [comment]
Hi all, I’ve resolved the merge conflicts and all CI checks are green.

**Comment by JovanGerb** [comment]
Hello, thank you for your contribution.

You can clean your proof up with the following tricks:
- to rewrite with a particular commutativity, e.g. for `angle p1 p2 p3`, you can use `rw [angle_comm p1 p2 p3]`
- to get all angles commuting in the same way, you can also use `simp only [angle_comm] at *`
- if the goal can be concluded by taking a linear combination of hypotheses, then you can use the `linear_combination` or `linarith` tactic, so that you don't need to worry about rewriting with `add_comm` or `add_left_inj` manually.
- if you are already working in the EuclideanGeometry namespace, you don't need to write it again to refer to a constant.

Also, could you move this theorem to right after `angle_add_angle_add_angle_eq_pi`, since it is very related?

The name `exterior_angle...` doesn't technically follow the naming convention, but if we did follow the naming convention, the name might be too undescriptive, so I think this is fine.

**Comment by wangying11123** [comment]
Thank you very much, I have simplified and resubmitted my code. Please help me continue the review.

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 4]
```diff
@@ -274,6 +274,15 @@ theorem angle_add_angle_add_angle_eq_pi {p₁ p₂ : P} (p₃ : P) (h : p₂ ≠
     vsub_sub_vsub_cancel_right p₃ p₂ p₁, ← vsub_sub_vsub_cancel_right p₂ p₃ p₁]
   exact angle_add_angle_sub_add_angle_sub_eq_pi _ fun he => h (vsub_eq_zero_iff_eq.1 he)
 
+/-- **Exterior angle theorem**. -/
+theorem exterior_angle_eq_angle_add_angle {p₁ p₂ p₃ : P} (p : P) (h : Sbtw ℝ p p₁ p₂) :
+    ∠ p₃ p₁ p = ∠ p₁ p₃ p₂ + ∠ p₃ p₂ p₁ := by
+  have H := (EuclideanGeometry.angle_add_angle_eq_pi_of_angle_eq_pi p₃ (Sbtw.angle₁₂₃_eq_pi h)).symm
```
Comment (grunweg) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: This works, right?
```suggestion
  have H := (angle_add_angle_eq_pi_of_angle_eq_pi p₃ (Sbtw.angle₁₂₃_eq_pi h)).symm
```

Comment (grunweg) [reply Mathlib/Geometry/Euclidean/Triangle.lean]: In fact, you can *also* use dot notation, and write `Sbtw.angle₁₂₃_eq_pi h` as `h.angle₁₂₃_eq_pi` --- because `h` has type `Sbtw ...`.

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 5]
```diff
@@ -274,6 +274,15 @@ theorem angle_add_angle_add_angle_eq_pi {p₁ p₂ : P} (p₃ : P) (h : p₂ ≠
...
+  rw [angle_comm p₃ p₁ p₂, add_comm, ← angle_add_angle_add_angle_eq_pi p₃ ((Sbtw.right_ne h).symm)]
```
Comment (grunweg) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: Please also use dot notation here. In fact, `ne_right` is shorter than `.right_ne.symm`:
```suggestion
  rw [angle_comm p₃ p₁ p₂, add_comm, ← angle_add_angle_add_angle_eq_pi p₃ h.ne_right]
```

**Review by grunweg — COMMENTED** [review]
Some more small comments

**Comment by grunweg** [comment]
If you like, you can also add your formalisation to `1000.yaml` --- find the entry for the exterior angle theorem and add your name, this year and the name of the theorem declaration. (This is purely optional; I can also do this in a follow-up, if you prefer.)

File: Mathlib/Geometry/Euclidean/Triangle.lean [hunk 6]
```diff
@@ -274,6 +274,15 @@ theorem angle_add_angle_add_angle_eq_pi {p₁ p₂ : P} (p₃ : P) (h : p₂ ≠
...
+    at H
+  simp only [angle_comm] at *
+  linarith
```
Comment (themathqueen) [inline Mathlib/Geometry/Euclidean/Triangle.lean]: here is a golf
```suggestion
  linarith [angle_add_angle_eq_pi_of_angle_eq_pi p₃ h.angle₁₂₃_eq_pi,
    angle_add_angle_add_angle_eq_pi p₃ h.right_ne.symm, angle_comm p₃ p₁ p₂]
```

File: Mathlib/Geometry/Euclidean/Triangle.lean (hunk 5 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Triangle.lean]: Thank you very much! This can help me simplify my proof! Thanks

**Comment by wangying11123** [comment]
> If you like, you can also add your formalisation to `1000.yaml` --- find the entry for the exterior angle theorem and add your name, this year and the name of the theorem declaration. (This is purely optional; I can also do this in a follow-up, if you prefer.)

Okay, Thank you. I will find the entry for the exterior angle theorem and add my name

File: Mathlib/Geometry/Euclidean/Triangle.lean (hunk 6 above)
Comment (wangying11123) [reply Mathlib/Geometry/Euclidean/Triangle.lean]: Thank you very much！Your prove is so concise and effective.

**Comment by JovanGerb** [comment]
Does anyone know why CI is failing?

**Comment by wangying11123** [comment]
> Does anyone know why CI is failing?

I should have used 'authors' in 1000. ymal, but I used 'author' instead. I'm sorry for slowing down the progress of the review due to my lack of proficiency

**Comment by JovanGerb** [comment]
No worries, I think there was something else going wrong in CI that was fixed when you merged master.

**Comment by dsfxcimk** [comment]
-awaiting-author

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
